US05484804
1.4 cm 3 of an aqueous 1N solution of sodium hydroxide and then 10 cm3 of water are added to a solution of 0.8 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2- methoxyphenyl)-2-[(S)-2-acetyloxy-2-phenylacetyl]perhydroisoindol-4-ol in 30 cm3 of ethanol. The reaction mixture is refluxed for 1 hour and concentrated to dryness under reduced pressure (2.7 kPa), and the residue is taken up in 50 cm3 of water and then 1.5 cm3 of an aqueous 1N solution of hydrochloric acid and extracted with 40 cm3 of ethyl acetate (3 times). The organic phases are combined, washed with 50 cm3 of water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a Merck silica gel column (particle size 0.04-0.06 mm, diameter 2.5 cm, height 27 cm) by eluting under a pressure of 0.4 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (50/50 by volume) and collecting fractions of 30 cm3. Fractions 2 to 5 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is triturated in isopropyl ether. 0.6 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(S)-2-hydroxy-2-phenylacetyl]perhydroisoindol-4-ol is obtained in the form of white crystals which melt at 256° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 10 cm3 | O | H2O
reactant | (3aS,4S,7aS)-7,7-diphenyl-4-(2- methoxyphenyl)-2-[(S)-2-acetyloxy-2-phenylacetyl]perhydroisoindol-4-ol | 0.8 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C([C@H](C1=CC=CC=C1)OC(C)=O)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C37H37NO5
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
product | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(S)-2-hydroxy-2-phenylacetyl]perhydroisoindol-4-ol | 0.6 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C([C@H](C1=CC=CC=C1)O)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C35H35NO4
